US06222034B1
3,4,5,6,7,8-Hexahydro-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′; 4,5]thieno[2,3-d]pyrimidin-4-one
4.0 g (8.6 mmol) of 3,4,5,6,7,8-hexahydro-7-acetyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one were dissolved in 80 ml of 10% strength hydrochloric acid and stirred at a bath temperature of 100° C. for 2 h. The mixture was then poured into ice-water, made alkaline with concentrated sodium hydroxide solution and extracted twice with methylene chloride. The combined organic phases were dried and concentrated. 3.7 g of crude product were isolated and were recrystallized from 50 ml of isopropanol. 2.4 g (66%) of product with melting point 168-170° C. were obtained.

reactant | 3,4,5,6,7,8-hexahydro-7-acetyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | 8.6 mmol, 4.0 g | C(C)(=O)N1CC2=C(C3=C(N=CN(C3=O)CCN3CCN(CC3)C3=C(C=CC=C3)OC)S2)CC1 | C24H29N5O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 3,4,5,6,7,8-Hexahydro-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′; 4,5]thieno[2,3-d]pyrimidin-4-one | 2.4 g, 66% | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C=NC2=C(C1=O)C1=C(S2)CNCC1 | C22H27N5O2S
